US06803486B2
2-(2-Aminoethyl)aniline (39).
To a solution of (2-nitrophenyl)acetonitrile (3 g, 18.5 mmol) was added dropwise a 1 M BH3-THF solution (125 mL) at 0° C. After 4 h of stirring at 25° C., 6N HCl solution (125 mL) was added to the reaction mixture at 0° C. After evaporation of the organic solvent in vacuo, the aqueous phase was basified with 4N NaOH solution to pH 10. Then the product was extracted with EtOAc and the organic phase was dried over MgSO4 and concentrated in vacuo. A brown liquid (41, 2 g, 10.8 mmol) was isolated. Without further purification, it was mixed with SnCl2 2H2O (13.57 g, 60.2 mmol) and absolute ethanol (20 mL). The suspension was heated at 70° C. under nitrogen. After being stirred for 30 min, the starting material disappeared, the solution was allowed to cool, then poured into ice (100 g). The pH was made slightly basic (pH 8) by the addition of a 5% aqueous NaHCO3 solution, and the resulting basic mixture was stirred for 1 h. The precipitate was extracted with ethyl acetate (100 mL×3). The extract was washed with water (50 mL×3) and dried over MgSO4. The product was obtained in a yield of 52% (1.3 g, brown liquid, over two steps) after evaporation of the solvent: 1H NMR (400 MHz, CD3OD) δ6.97 (t, J=7.2 Hz, 2H), 6.72 (d, J=7.2 Hz, 2H), 6.64 (t, J=7.2 Hz, 1H), 2.82 (t, J=7.2 Hz, 2H), 2.66 (t, J=7.2 Hz, 2H). HRMS (EI) m/z (M+) calcd for C8H12N2 136.1000, found 136.1002.

reactant | (2-nitrophenyl)acetonitrile | 18.5 mmol, 3 g | [N+](=O)([O-])C1=C(C=CC=C1)CC#N | C8H6N2O2
reactant | BH3-THF | 1 M, 125 mL | B.C1CCOC1
reactant | HCl | 6N, 125 mL | Cl | ClH
product | 2-(2-Aminoethyl)aniline | yield of 52% | NCCC1=C(N)C=CC=C1 | C8H12N2
